US07528147B2
2-[1-(3-fluoropropyl)-5,6-dimethoxy-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 88a, but using 0.042 g of 2-[5,6-dimethoxy-1-(3-fluoropropyl)indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 1.63 ml of a 5N aqueous potassium hydroxide solution. After purification by flash-pack chromatography (silica, 98/02 by volume dichloromethane/methanol as eluents), 0.008 g of 2-[1-(3-fluoropropyl)-5,6-dimethoxy-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is obtained, the characteristics of which are as follows:

reactant | 2-[5,6-dimethoxy-1-(3-fluoropropyl)indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.042 g | COC=1C=C2C(=CN(C2=CC1OC)CCCF)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H26FN3O4S
reactant | potassium hydroxide | 5N | [OH-].[K+]
product | 2-[1-(3-fluoropropyl)-5,6-dimethoxy-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.008 g | FCCCN1C=C(C2=CC(=C(C=C12)OC)OC)C1=CC=2C(=NC=CC2)N1 | C20H20FN3O2
